US04472433
Ethyl 2-nitro-3-(2-chlorophenoxy)benzoate was suspended in 1N-potassium hydroxide (60 ml) and ethanol (60 ml) and stirred for 1.7 hrs. Ethanol was distilled off from the reaction mixture, and the remaining aqueous solution was washed with diethyl ether and acidified at 0° C. The precipitating crystals were collected by filtration, washed with water and dried over phosphorus pentoxide in vacuo to give 2-nitro-3-(2-chlorophenoxy)benzoic acid (11.3 g). mp 185°-187° C.

reactant | Ethyl 2-nitro-3-(2-chlorophenoxy)benzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=CC=C1OC1=C(C=CC=C1)Cl | C15H12ClNO5
reactant | potassium hydroxide | 60 ml | [OH-].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-nitro-3-(2-chlorophenoxy)benzoic acid | 11.3 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1OC1=C(C=CC=C1)Cl | C13H8ClNO5
